US06489344B1
4-[2-({2-[(6-chloropyrimidin-4-yl)amino]ethyl}amino)-5-imidazolylpyrimidin-4-yl]benzenecarbonitrile was prepared from 4,6-dichloropyrimidine using the general method for 4-{5-imidazolyl-2-[(2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amino]pyrimidin-4-yl}benzenecarbonitrile.

reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-{5-imidazolyl-2-[(2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amino]pyrimidin-4-yl}benzenecarbonitrile | N1C(=NC=C1)C=1C(=NC(=NC1)NCCNC1=NC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C22H17F3N8
product | 4-[2-({2-[(6-chloropyrimidin-4-yl)amino]ethyl}amino)-5-imidazolylpyrimidin-4-yl]benzenecarbonitrile | ClC1=CC(=NC=N1)NCCNC1=NC=C(C(=N1)C1=CC=C(C=C1)C#N)C=1NC=CN1 | C20H16ClN9
